US03956310
3.33 Parts of 7,14-diazadispiro[5.1.5.2]pentadecan-15-one, 2.19 parts of p-tolylisocyanate and a trace of 1,4-diazabicyclo[2.2.2]octane in 150 parts of dry benzene were heated at reflux for 24 hours. The solvent was evaporated in vacuo to yield a solid material which was recrystallised from ethanol to give 4.2 parts of 14-p-tolylcarbamoyl-7,14-diazadispiro[5.1.5.2]pentadecan-15-one as colourless crystals of melting point 136° to 138°C. This material gave the following elemental analysis by weight:

reactant | 7,14-diazadispiro[5.1.5.2]pentadecan-15-one | C1CCCCC12NC1(CCCCC1)NC2=O | C13H22N2O
reactant | p-tolylisocyanate | C1(=CC=C(C=C1)N=C=O)C | C8H7NO
reactant | 1,4-diazabicyclo[2.2.2]octane | N12CCN(CC1)CC2 | C6H12N2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 14-p-tolylcarbamoyl-7,14-diazadispiro[5.1.5.2]pentadecan-15-one | C1(=CC=C(C=C1)NC(=O)N1C2(NC3(CCCCC3)C1=O)CCCCC2)C | C21H29N3O2
